US07541354B2
Preparation of 3-(2-Naphthalen-2-yl-propionylamino)-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-1-carboxylic acid ethyl ester
2.5 g (5.2 mmol) of 3-(2-naphthalen-2-yl-propionylamino)-4,6-dihydro-pyrrolo[3,4-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester in 15 ml DCM was treated with 16 ml of (1:1) TFA/DCM. The reaction mixture was stirred for 30 min. and evaporated to dryness. The resulting residue was dissolved in DCM and the solution was washed with brine and then treated with NaHCO3 aq. The obtained precipitate was filtered, washed with water and DCM, and then dried under vacuum to give 2.0 g (quantitative yield) of the title compound.

reactant | 3-(2-naphthalen-2-yl-propionylamino)-4,6-dihydro-pyrrolo[3,4-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester | 5.2 mmol, 2.5 g | C(C)OC(=O)N1N=C(C2=C1CN(C2)C(=O)OC(C)(C)C)NC(C(C)C2=CC1=CC=CC=C1C=C2)=O | C26H30N4O5
reactant | TFA DCM | 16 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Naphthalen-2-yl-propionylamino)-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-1-carboxylic acid ethyl ester | 2.0 g, quantitative yield | C(C)OC(=O)N1N=C(C2=C1CNC2)NC(C(C)C2=CC1=CC=CC=C1C=C2)=O | C21H22N4O3
